US07700625B2
Synthesis of (2,4-bis-benzyloxy-5-isopropyl-phenyl)-[5-(2-dimethylamino-ethoxy)-1,3-dihydro-isoindol-2-yl]-methanone
A mixture of (2,4-bis-benzyloxy-5-isopropyl-phenyl)-(5-hydroxy-1,3-dihydro-isoindol-2-yl)-methanone (100 mg, 0.2 mmol), 2-dimethylaminoethylchloride.HCl (72 mg, 0.5 mmol) and K2CO3 (173 mg, 1.25 mmol) in DMF (5 ml) was heated at 90° C. for 16 hours. Dilute reaction mixture with EtOAc and filtered. The reaction mixture was diluted with EtOAc and filtered. The filtrate was reduced in vacuo and purified by flash column chromatography, eluting 100% DCM then 90% DMAW 90 to give the title compound as an off white gel (79 mg). MS: [M+H]+ 565.

reactant | (2,4-bis-benzyloxy-5-isopropyl-phenyl)-(5-hydroxy-1,3-dihydro-isoindol-2-yl)-methanone | 0.2 mmol, 100 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(C)C)C(=O)N1CC2=CC=C(C=C2C1)O | C32H31NO4
reactant | 2-dimethylaminoethylchloride | CN(CCCl)C | C4H10ClN
reactant | HCl | 0.5 mmol, 72 mg | Cl | ClH
reactant | K2CO3 | 1.25 mmol, 173 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2,4-bis-benzyloxy-5-isopropyl-phenyl)-[5-(2-dimethylamino-ethoxy)-1,3-dihydro-isoindol-2-yl]-methanone | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(C)C)C(=O)N1CC2=CC=C(C=C2C1)OCCN(C)C | C36H40N2O4
